US04487778
To a stirred solution of 4,5-dihydronaphtho[1,2-b]thiophen-6-carboxylic acid (3.4 g, 0.015 mole) in 50 ml of tetrahydrofuran under an argon atmosphere was added dropwise borane-tetrahydrofuran complex (2.5 g, 0.030 mole). Upon complete addition, the reaction mixture was stirred at room temperature for 18.5 hours. The reaction mixture was then taken up in water and concentrated under reduced pressure to a residue. The residue was washed into a separatory funnel with aqueous 2N sodium hydroxide and methylene chloride. The aqueous layer was extracted with two 100 ml portions of methylene chloride. The combined extracts were dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure to give 4,5-dihydronaphtho[1,2-b]thiophen-6-methanol; 2.8 g, mp 99°-100°.

reactant | 4,5-dihydronaphtho[1,2-b]thiophen-6-carboxylic acid | 0.015 mole, 3.4 g | S1C2=C(C=C1)CCC=1C(=CC=CC12)C(=O)O | C13H10O2S
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 4,5-dihydronaphtho[1,2-b]thiophen-6-methanol | S1C2=C(C=C1)CCC=1C(=CC=CC12)CO | C13H12OS
